* C:\Users\nicol\Documents\Projects\lab-bench-power-supply\sim\Simetrix\linear_regulator.wxsch
*#SIMETRIX
R19 Vsen 0 10
X2 Vref X2_inn VDD 0 C1_P PARAM_OPAMP params: A0=100k
+ CMRR=100k
+ GBW=1e6
+ IB=100n
+ IBOS=1n
+ IQ=0.001
+ PSRR=100k
+ RIN=1meg
+ ROUT=100
+ SR_NEG=1e6
+ SR_POS=1e6
+ VDIFF_NEG=0
+ VDIFF_POS=0
+ VOFF_TOL=0
+ VOS=0 
+ GBW2=5 pinnames: inp inn vsp vsn out
V5 Iref 0 1.2
V3 Vref 0 6
V11 Vin 0 12
R26 R26_P Q12_C 22k
V1 VDD 0 24
Q2 Q12_C R14_P Q2_E Q2N2222
R3 X2_inn Vsen 10k
Q14 VG_MIRR VG_MIRR R23_N Q2N2904
R13 Q2_E 0 1k
R24 Vin R24_N 10
Q13 Q13_C VG_MIRR R20_N Q2N2904
R23 Vin R23_N 10
Q12 Q12_C VG_MIRR R24_N Q2N2904
R22 Q13_C 0 470
Q10 Q11_B R26_P 0 Q2N2222
R20 Vin R20_N 10
R2 R2_P X2_inn 1K
R14 R14_P C1_P 22k
Q11 D9_P Q11_B Vin TIP42C
X$H3 Isen 0 D9_P Vsen H3$TP_CCVS params: gain=1 pinnames: P N CP CN
.subckt H3$TP_CCVS 1 2 3 4
H1 1 2 V1 {gain} 
V1 3 4
.ends
I4 Vin Q11_B 80m
I3 VG_MIRR 0 10m
D9 D9_P Vin IDEAL
C5 Vsen 0 10p   
C1 C1_P R2_P 100n   
.tran 100m
*.ac dec 500 1 1000000

